US07723384B2
1-[4-(Hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl)butyl]-3,4-dihydro-1H-1-benzazepine-2,5-dione
Analogously to the method for Example 12b, reaction of 1-(4-chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione (0.40 mmol, 0.11 g) and octahydropyrrolo[1,2-a]pyrazine (0.40 mmol, 0.05 g) afforded 0.05 g of the title compound.

reactant | 1-(4-chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione | 0.40 mmol, 0.11 g | ClCCCCN1C(CCC(C2=C1C=CC=C2)=O)=O | C14H16ClNO2
reactant | octahydropyrrolo[1,2-a]pyrazine | 0.40 mmol, 0.05 g | C1C2N(CCN1)CCC2 | C7H14N2
product | 1-[4-(Hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl)butyl]-3,4-dihydro-1H-1-benzazepine-2,5-dione | 0.05 g | C1C2N(CCN1CCCCN1C(CCC(C3=C1C=CC=C3)=O)=O)CCC2 | C21H29N3O2
